US04423213
To a suspension of 2-(4-aminopyrimidin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetic acid (syn isomer) (1.3 g) in ethyl acetate (25 ml) was added phosphorus oxychloride (0.5 ml) under ice-cooling with stirring, followed by stirring at 0° to 5° C. for half an hour. After trimethylsilylacetamide (28 mg) was added thereto, the mixture was stirred at the same temperature for half an hour. To the mixture was added phosphorus oxychloride (0.5 ml) at 0° to 5° C., followed by stirring at the same temperature for 15 minutes. Thereto was added N,N-dimethylformamide (0.37 ml) at 0° to 5° C., followed by stirring under ice-cooling for half an hour to prepare the activated acid solution. This solution was added at a time to a solution of benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate (1.32 g) and trimethylsilylacetamide (3.5 g) in methylene chloride (30 ml) at -20° C., followed by stirring at -10° C. for 40 minutes. The reaction mixture was poured into ethyl acetate, and the separated organic layer was washed with 5% aqueous sodium bicarbonate and 5% aqueous sodium chloride, followed by drying over magnesium sulfate. After removal of the solvent, the residual oil was subjected to column chromatography on silica gel (100 ml) using a mixed solvent of diisopropyl ether and ethyl acetate as an eluent. The fractions containing a desired compound were collected and then evaporated to obtain benzhydryl 7-[2-(4-aminopyrimidin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (0.4 g), mp 155° to 158° C.

reactant | 2-(4-aminopyrimidin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetic acid | 1.3 g | NC1=NC(=NC=C1)C(C(=O)O)=NOCC(=O)OC(C)(C)C | C12H16N4O5
reactant | phosphorus oxychloride | 0.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | trimethylsilylacetamide | 28 mg | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | phosphorus oxychloride | 0.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate | 1.32 g | NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H20N2O3S
reactant | trimethylsilylacetamide | 3.5 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 0.37 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-[2-(4-aminopyrimidin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 0.4 g | NC1=NC(=NC=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C34H34N6O7S
